US08476261B2
b) Ethyl 9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopropane]-6-carboxylate
A mixture of ethyl 3-(1-(hydroxymethyl)cyclopropylamino)-2-(2,3,4,5-tetrafluoro-benzoyl)acrylate (300 mg, 0.83 mmol), K2CO3 powder (344 mg, 2.49 mmol), and 3 ml of anhydrous DMF were heated in a CEM Discover microwave for 10 min at 200° C. After that the sample was rapidly cooled to room temperature yielding a dark brown liquid. The DMF was removed by evaporation to give a dark solid. The solid was dissolved in 50 ml of ethylacetate and washed two times with 10 ml of water. The organic layer was dried over Na2SO4 to afford a light yellow solid as the title compound which was used without further purification in the next step (133 mg, 0.415 mmol). MS (EP) m/z: 322 (M++1). (Calcd. for C16H13F2NO4, 321.28)

reactant | ethyl 3-(1-(hydroxymethyl)cyclopropylamino)-2-(2,3,4,5-tetrafluoro-benzoyl)acrylate | 0.83 mmol, 300 mg | OCC1(CC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)F)F)=O | C16H15F4NO4
reactant | K2CO3 | 2.49 mmol, 344 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethylacetate | 50 ml | C(C)OC(C)=O | C4H8O2
product | Ethyl 9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopropane]-6-carboxylate | FC=1C=C2C(C(=CN3C2=C(C1F)OCC31CC1)C(=O)OCC)=O | C16H13F2NO4
